US07453010B2
A mixture of ethyl trans-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetate (0.26 mmol) and of 0.25 g of 10% palladium-on-charcoal (50% in water) in ethanol (16 ml) is placed under hydrogen atmosphere and stirred for 7 h. The reaction mixture is filtered through celite. The solvents are evaporated under reduced pressure and ethyl trans-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}-phenoxy)acetate is obtained in the form of a white solid (0.08 g, 54%) after purification on silica gel (eluent: dichloromethane/methanol, 99/1 to 85/15 gradient in 30 min).

reactant | ethyl trans-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetate | 0.26 mmol | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C40H48N2O8S
solvent | ethanol | 16 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.25 g | [Pd] | Pd
product | ethyl trans-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}-phenoxy)acetate | O[C@@H](CN[C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1)COC1=CC(=C(C=C1)O)NS(=O)(=O)C | C26H36N2O8S
